### PR TITLE
[Merged by Bors] - feat: star self dot product eq zero and kernel lemmas apply to matrices not just vectors

### PR DESCRIPTION
**Pull request by MohanadAhmed**
This generalizes two results about vectors to matrices:
* `dotProduct_star_self_eq_zero` to `conjTranspose_mul_self_eq_zero` 
* `dotProduct_self_star_eq_zero` to `self_mul_conjTranspose_eq_zero`

It also adds lemmas linking the kernel (under left-multiplication, right-multiplication, `vecMul`, and `mulVec`) of $A$, $A^HA$, and $AA^H$.

Some of these lemmas are used in the SVD decomposition theorem of R or C matrices #6042 

---

old description:

> Three lemmas:
> 
> - `conjTranspose_mul_self_eq_zero_iff` : a matrix is zero iff its conjugate transpose multiplied by the matrix is zero.
> - `ker_conj_transpose_mul_self_eq_ker` : The Kernel of a matrix $A$ and the matrix $A^HA$ are the same.
> - `ker_self_mul_conj_transpose_eq_ker_conj_transpose` : The Kernel of a matrix $A^H$ and the matrix multiplied by conjugate transpose $AA^H$ are the same.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 1]
```diff
@@ -82,22 +82,44 @@ theorem dotProduct_self_eq_zero [LinearOrderedRing R] {v : n → R} : dotProduct
...
-theorem dotProduct_self_star_eq_zero [PartialOrder R] [NonUnitalRing R] [StarOrderedRing R]
-    [NoZeroDivisors R] {v : n → R} : dotProduct v (star v) = 0 ↔ v = 0 :=
+theorem dotProduct_self_star_eq_zero {v : n → R} : dotProduct v (star v) = 0 ↔ v = 0 :=
   (Finset.sum_eq_zero_iff_of_nonneg fun i _ => (@star_mul_self_nonneg' _ _ _ _ (v i) : _)).trans <|
     by simp [Function.funext_iff, mul_eq_zero]
 #align matrix.dot_product_self_star_eq_zero Matrix.dotProduct_self_star_eq_zero
 
+variable {m p: Type _} [Fintype m] [Fintype p]
+
+lemma conjTranspose_mul_self_eq_zero_iff (A : Matrix m n R) : (Aᴴ⬝A) = 0 ↔ A = 0 :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:105]:
```suggestion
@[simp] lemma conjTranspose_mul_self_eq_zero_iff {A : Matrix m n R} : (Aᴴ⬝A) = 0 ↔ A = 0 :=
```

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 2]
```diff
@@ -82,22 +82,44 @@ theorem dotProduct_self_eq_zero [LinearOrderedRing R] {v : n → R} : dotProduct
...
+  ⟨fun h => Matrix.ext fun i j =>
+    (Function.funext_iff.1 (dotProduct_star_self_eq_zero.1 ((Matrix.ext_iff.2 h) j j))) i,
+  fun h => by simp only [h, Matrix.mul_zero] ⟩
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:109]: Can you add `(A⬝Aᴴ) = 0 ↔ A = 0` too?

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 3]
```diff
@@ -74,30 +72,57 @@ end Semiring
...
+  fun h => h ▸ Matrix.mul_zero _⟩
+
+@[simp]
+lemma self_mul_conjTranspose_eq_zero_iff {A : Matrix m n R} : (A⬝Aᴴ) = 0 ↔ A = 0 :=
+  ⟨fun h => Matrix.ext fun i j =>
+    (congr_fun <| dotProduct_self_star_eq_zero.1 <| Matrix.ext_iff.2 h i i) j,
+  fun h => h ▸ Matrix.zero_mul _⟩
+
+lemma ker_conj_transpose_mul_self_eq_ker (A: Matrix m n R) (B: Matrix n p R) :
+    (Aᴴ⬝A)⬝B = 0 ↔ A⬝B = 0 := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:114]: Can you add the versions of this for `mulVec` and `vecMul` too?

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 4]
```diff
@@ -74,30 +72,57 @@ end Semiring
...
+    (congr_fun <| dotProduct_star_self_eq_zero.1 <| Matrix.ext_iff.2 h j j) i,
+  fun h => h ▸ Matrix.mul_zero _⟩
+
+@[simp]
+lemma self_mul_conjTranspose_eq_zero_iff {A : Matrix m n R} : (A⬝Aᴴ) = 0 ↔ A = 0 :=
+  ⟨fun h => Matrix.ext fun i j =>
+    (congr_fun <| dotProduct_self_star_eq_zero.1 <| Matrix.ext_iff.2 h i i) j,
+  fun h => h ▸ Matrix.zero_mul _⟩
+
+lemma ker_conj_transpose_mul_self_eq_ker (A: Matrix m n R) (B: Matrix n p R) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:113]: I think `ker` is confusing here, because a) we don't have a definition of `Matrix.ker`, and b) if we did it would be a set / submodule, not proposition
```suggestion
lemma conj_transpose_mul_self_mul_eq_zero_iff (A: Matrix m n R) (B: Matrix n p R) :
```

File: Mathlib/Data/Matrix/Rank.lean [hunk 5]
```diff
@@ -224,8 +224,9 @@ theorem ker_mulVecLin_conjTranspose_mul_self (A : Matrix m n R) :
     replace h := congr_arg (dotProduct (star x)) h
     haveI : NoZeroDivisors R := inferInstance
     rwa [dotProduct_mulVec, dotProduct_zero, vecMul_conjTranspose, star_star,
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:226]: I think most of this proof can be replaced with `conj_transpose_mul_self_mul_eq_zero_iff`?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Rank.lean:226]: (or perhaps the mulVec version that I suggested you add)

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean (hunk 3 above)
Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/DotProduct.lean:114]: I think what you mean is already there in the Matrix.Data.rank file

File: Mathlib/Data/Matrix/Rank.lean (hunk 5 above)
Comment (MohanadAhmed) [reply Mathlib/Data/Matrix/Rank.lean:226]: I am not following here. This does what `conj_transpose_mul_self_mul_eq_zero_iff` but for vectors instead of full matrices. Which are you trying to replace?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Rank.lean:226]: Sorry for the confusion, what I'm proposing is:
* Address https://github.com/leanprover-community/mathlib4/pull/6587#discussion_r1295590590, either by extracting the proof here or re-proving from scratch.
* Golf the proof here to use the new lemma.

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 6]
```diff
@@ -74,30 +72,69 @@ end Semiring
...
+  refine' ⟨ fun h => _, fun h => by simp only [Matrix.mul_assoc, h, Matrix.mul_zero] ⟩
+  apply_fun (fun x => Bᴴ.mul x) at h
+  rw [Matrix.mul_zero, Matrix.mul_assoc, ← Matrix.mul_assoc, ← conjTranspose_mul] at h
+  exact conjTranspose_mul_self_eq_zero_iff.1 h
+
+lemma self_mul_conjTranspose_mul_eq_zero_iff (A: Matrix m n R)(B: Matrix m p R) :
+    (A⬝Aᴴ)⬝B = 0 ↔ Aᴴ⬝B = 0 := by
+  simpa only [conjTranspose_conjTranspose] using conjTranspose_mul_self_mul_eq_zero_iff  Aᴴ _
+
+lemma mulVec_conjTranspose_mul_self_eq_zero_iff (A: Matrix m n R) (v : n → R) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:124]:
```suggestion
lemma conjTranspose_mul_self_mulVec_eq_zero_iff (A: Matrix m n R) (v : n → R) :
```
since I think we view `mulVec` as an infix operator in names (and the lemma below)

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 7]
```diff
@@ -74,30 +72,69 @@ end Semiring
...
+    (congr_fun <| dotProduct_star_self_eq_zero.1 <| Matrix.ext_iff.2 h j j) i,
+  fun h => h ▸ Matrix.mul_zero _⟩
+
+@[simp]
+lemma self_mul_conjTranspose_eq_zero_iff {A : Matrix m n R} : (A ⬝ Aᴴ) = 0 ↔ A = 0 :=
+  ⟨fun h => Matrix.ext fun i j =>
+    (congr_fun <| dotProduct_self_star_eq_zero.1 <| Matrix.ext_iff.2 h i i) j,
+  fun h => h ▸ Matrix.zero_mul _⟩
+
+lemma conjTranspose_mul_self_mul_eq_zero_iff  (A: Matrix m n R) (B: Matrix n p R) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:113]: Style (throughout)
```suggestion
lemma conjTranspose_mul_self_mul_eq_zero_iff (A : Matrix m n R) (B : Matrix n p R) :
```

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 8]
```diff
@@ -74,30 +72,69 @@ end Semiring
...
+lemma mulVec_conjTranspose_mul_self_eq_zero_iff (A: Matrix m n R) (v : n → R) :
+    mulVec (Aᴴ ⬝ A) v = 0 ↔ mulVec A v = 0 := by
+  rw [← mulVec_mulVec]
+  refine ⟨ fun h => ?_ , fun h => by simp only [h, mulVec_zero] ⟩
+  apply_fun (fun x => dotProduct (star v) x) at h
+  rwa [dotProduct_mulVec, dotProduct_zero, vecMul_conjTranspose, star_star,
+    dotProduct_star_self_eq_zero] at h
+
+lemma mulVec_self_mul_conjTranspose_eq_zero_iff (A: Matrix m n R) (v : m → R) :
+    mulVec (A ⬝ Aᴴ) v = 0 ↔ mulVec Aᴴ v = 0 := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:133]: Thanks! Can you add the `vecMul` version too?

**Review by eric-wieser — COMMENTED** [review]
#6487 has landed, so you'll need to use `*` for matrix multiplication throughout.

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 9]
```diff
@@ -74,30 +72,74 @@ end Semiring
...
+  rwa [dotProduct_mulVec, dotProduct_zero, vecMul_conjTranspose, star_star,
+    dotProduct_star_self_eq_zero] at h
+
+lemma mulVec_self_mul_conjTranspose_eq_zero_iff (A : Matrix m n R) (v : m → R) :
+    mulVec (A * Aᴴ) v = 0 ↔ mulVec Aᴴ v = 0 := by
+  simpa only [conjTranspose_conjTranspose] using mulVec_conjTranspose_mul_self_eq_zero_iff Aᴴ _
+
+lemma vecMul_self_mul_conjTranspose_eq_zero_iff (A : Matrix m n R) (v : m → R) :
+    mulVec (A * Aᴴ) v = 0 ↔ mulVec Aᴴ v = 0 := by
+  simpa only [conjTranspose_conjTranspose] using mulVec_conjTranspose_mul_self_eq_zero_iff Aᴴ _
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:138]:
```suggestion
lemma vecMul_self_mul_conjTranspose_eq_zero_iff (A : Matrix m n R) (v : m → R) :
    vecMul v (A * Aᴴ) = 0 ↔ vecMul v A = 0 := by
  simpa only [conjTranspose_conjTranspose] using vecMul_conjTranspose_mul_self_eq_zero_iff Aᴴ _
```

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 10]
```diff
@@ -74,30 +72,79 @@ end Semiring
...
+    (A * Aᴴ) * B = 0 ↔ Aᴴ * B = 0 := by
+  simpa only [conjTranspose_conjTranspose] using conjTranspose_mul_self_mul_eq_zero_iff  Aᴴ _
+
+lemma conjTranspose_mul_self_mulVec_eq_zero_iff (A : Matrix m n R) (v : n → R) :
+    (Aᴴ * A).mulVec v = 0 ↔ A.mulVec v = 0 := by
+  rw [← mulVec_mulVec]
+  refine ⟨ fun h => ?_ , fun h => by simp only [h, mulVec_zero] ⟩
+  apply_fun (fun x => dotProduct (star v) x) at h
+  rwa [dotProduct_mulVec, dotProduct_zero, vecMul_conjTranspose, star_star,
+    dotProduct_star_self_eq_zero] at h
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:130]: I think #6614 should make it possible to solve this with a single `simpa` line, by appealing to `self_mul_conjTranspose_mul_eq_zero_iff` with `B = col v`.

**Comment by eric-wieser** [comment]
bors d+

Please check you are happy with the updated PR description (and adjust it if not!) before merging
